US06867323B2
Preparation of (1,1-Dimethylethyl)[(2-iodophenyl)methoxy]dimethylsilane.
To a stirring solution of 2-iodobenzylalcohol (2.34 g, 10 mmol) in 50 mL DMF was added imidazole (1.02 g, 15 mmol, 1.5 equiv) and TBSCl (1.66 g, 11 mmol, 1.1 equiv). The mixture was stirred at room temperature for 5 h, then 40 mL of water was added. The mixture was transferred to a separatory funnel. The aqueous layer was separated and extracted with ether (2×40 mL). The combined organic layers were then washed with water (2×40 mL), dried with MgSO4 and filtered. The solvent was removed in vacuo and the residue was purified by column chromatography and then Kugelrohr distillation to afford the product (3.107 g, 89%) as a clear colorless liquid.

reactant | 2-iodobenzylalcohol | 10 mmol, 2.34 g | IC1=C(CO)C=CC=C1 | C7H7IO
reactant | imidazole | 15 mmol, 1.02 g, 1.5 equiv | N1C=NC=C1 | C3H4N2
reactant | TBSCl | 11 mmol, 1.66 g, 1.1 equiv | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | water | 40 mL | O | H2O
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | (1,1-Dimethylethyl)[(2-iodophenyl)methoxy]dimethylsilane | 3.107 g, 89% | CC(C)(C)[Si](C)(C)OCC1=C(C=CC=C1)I | C13H21IOSi
